US07109219B2
1-(3-Aminopropyl)-4-hydroxypiperidine
Ethanol (200 ml) and palladium carbon (2.5 g) were added to benzyl N-(3-(4-hydroxypiperidino)propyl)carbamate (2.96 g); and the reaction mixture was stirred vigorously under hydrogen atmosphere overnight. Palladium carbon was removed by filtration, and the filtrate was concentrated to yield the title compound (1.5 g).

reactant | benzyl N-(3-(4-hydroxypiperidino)propyl)carbamate | 2.96 g | OC1CCN(CC1)CCCNC(OCC1=CC=CC=C1)=O | C16H24N2O3
catalyst | palladium carbon | 2.5 g | [C].[Pd]
solvent | Ethanol | 200 ml | C(C)O | C2H6O
product | 1-(3-Aminopropyl)-4-hydroxypiperidine | 1.5 g | NCCCN1CCC(CC1)O | C8H18N2O
